US05556861
(RS)-8-(3-Amino-2,2-dimethyl-1-azetidinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid was prepared under the conditions described in Example 15, but starting with 1.45 g of 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine-3-carboxylic acid and 2.33 g of 3-amino-2,2-dimethylazetidine dimethanesulphonate. The reaction mixture is heated with stirring to approximately 100° C. for 5 hours. 0.6 g of (RS)-8-(3-amino-2,2-dimethyl-1-azetidinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid, which decomposes at 285° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine-3-carboxylic acid | 1.45 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | 3-amino-2,2-dimethylazetidine dimethanesulphonate | 2.33 g | CS(=O)(=O)O.CS(=O)(=O)O.NC1C(NC1)(C)C
product | (RS)-8-(3-amino-2,2-dimethyl-1-azetidinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 0.6 g | NC1C(N(C1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F)(C)C | C19H19FN4O3
